US04012433
In another procedure on the same scale, the thionyl chloride in 25 ml of EDC was stirred at 65° while a warm solution of 4-hydroxy-2-butynyl N-(3-chlorophenyl)carbamate in 75 ml of EDC was added dropwise over a period of 60 minutes. After 17 hours at 65°, the solvent was evaporated to afford 6.5 g of barban which was analyzed by HPLC: barban -- 97.5% (w/w), biscarbamate -- 1.0% (w/w); bisurea -- 1.6% (w/w).

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-2-butynyl N-(3-chlorophenyl)carbamate | ClC=1C=C(C=CC1)NC(OCC#CCO)=O | C11H10ClNO3
solvent | EDC | 25 ml
solvent | EDC | 75 ml
product | barban | 6.5 g | C1=CC(=CC(=C1)Cl)NC(=O)OC#CCl | C9H5Cl2NO2
